US07326803B2
Synthesis of 6-{1-[4-(4-fluorobenzyloxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl]methanoyl}naphthalene-2-carboxylic acid
In a manner similar to that of Example 1g, by reacting 250 mg (0.5 mmol) of methyl 6-{1-[4-(4-fluorobenzyloxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl]methanoyl}-2-naphthalenecarboxylate with 40 mg of sodium hydroxide. A white crystallized solid is obtained (m=235 mg; yield=66%; m.p.=277° C.).

reactant | methyl 6-{1-[4-(4-fluorobenzyloxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl]methanoyl}-2-naphthalenecarboxylate | 0.5 mmol, 250 mg | FC1=CC=C(COC2=CC(=CC=3C(CCC(C23)(C)C)(C)C)C(=O)C=2C=C3C=CC(=CC3=CC2)C(=O)OC)C=C1 | C34H33FO4
reactant | sodium hydroxide | 40 mg | [OH-].[Na+]
product | 6-{1-[4-(4-fluorobenzyloxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl]methanoyl}naphthalene-2-carboxylic acid | FC1=CC=C(COC2=CC(=CC=3C(CCC(C23)(C)C)(C)C)C(=O)C=2C=C3C=CC(=CC3=CC2)C(=O)O)C=C1 | C33H31FO4
